*SRC=2SK1058;MSK1058;MOSFETs N;Power >100V;160V 7A 
*SYM=POWMOSN
.SUBCKT MSK1058 10 20 40
* TERMINALS: D G S
* Hitachi 160 Volt 7 Amp .171 ohm N-Channel Power MOSFET 08-06-1993
M1 1 2 3 3 DMOS L=1U W=1U
RD 100 1 80.4M
RS 30 3 5.28M
RG 20 2 21.4
CGS 2 3 410P
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 128P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 100 DSUB
LS 30 40 7.5N
LD 10 100 4N
.MODEL DMOS NMOS (LEVEL=3 THETA=85M VMAX=163K ETA=2.2M VTO=.2 KP=.999)
.MODEL DCGD D (CJO=128P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=802P VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS 


*SRC=2SJ162;MSJ162;MOSFETs P;Power >100V;160V 7A 
*SYM=POWMOSP
.SUBCKT MSJ162 10 20 40
* TERMINALS: D G S
* Hitachi 160 Volt 7 Amp .171 ohm P-Channel Power MOSFET 08-06-1993
M1 1 2 3 3 DMOS L=1U W=1U
RD 100 1 110.4M
RS 30 3 25.28M
RG 20 2 17.4
CGS 2 3 760P
EGD 12 0 1 2 1
VFB 14 0 0
FFB 1 2 VFB 1
CGD 13 14 467P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 100 3 DSUB
LS 30 40 7.5N
LD 10 100 4N
.MODEL DMOS PMOS (LEVEL=3 THETA=90M VMAX=183K ETA=6.5M VTO=-.2 KP=1.109)
.MODEL DCGD D (CJO=467P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=900P VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS 

*SRC=2SJ50;MSJ50;MOSFETs P;Power >100V;160V 7A 
*SYM=POWMOSP
.SUBCKT MSJ50 10 20 40
* TERMINALS: D G S
* Hitachi 160 Volt 7 Amp .171 ohm P-Channel Power MOSFET 08-07-1993
M1 1 2 3 3 DMOS L=1U W=1U
RD 10 1 80.4M
RS 30 3 5.28M
RG 20 2 15.4
CGS 2 3 860P
EGD 12 0 1 2 1
VFB 14 0 0
FFB 1 2 VFB 1
CGD 13 14 513P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 10 3 DSUB
LS 30 40 7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=533K ETA=5.5M VTO=-.34 KP=.599)
.MODEL DCGD D (CJO=513P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=1.12N VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS 

*SRC=2SK135;MSK135;MOSFETs N;Power >100V;160V 7A 
*SYM=POWMOSN
.SUBCKT MSK135 10 20 40
* TERMINALS: D G S
* Hitachi 160 Volt 7 Amp .171 ohm N-Channel Power MOSFET 08-07-1993
M1 1 2 3 3 DMOS L=1U W=1U
RD 100 1 80.4M
RS 30 3 5.28M
RG 20 2 21.4
CGS 2 3 590P
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 128P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 100 DSUB
LS 30 40 12.5N
LD 10 100 5N
.MODEL DMOS NMOS (LEVEL=3 THETA=80M VMAX=233K ETA=2M VTO=.25 KP=.817)
.MODEL DCGD D (CJO=128P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=1.46N VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS