.SUBCKT MSK1058 1 2 3
* TERMINALS: 1 2 3
M1 9 7 8 8 DMOS L=1U W=1U
RD 1 9 80.4M
RS 3 8 5.28M
RG 2 7 21.4
CGS 7 8 410P
EGD 12 0 7 9 1
VFB 14 0 0
FFB 9 7 VFB 1
CGD 13 14 128P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 8 1 DSUB
LS 30 3 7.5N
LD 1 9 4N
.MODEL DMOS NMOS (LEVEL=3 THETA=85M VMAX=163K ETA=2.2M VTO=.2 KP=.999)
.MODEL DCGD D (CJO=128P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=802P VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS
 

.SUBCKT MSJ162 1 2 3
* TERMINALS: 1 2 3
M1 9 7 8 8 DMOS L=1U W=1U
RD 9 1 110.4M
RS 8 3 25.28M
RG 7 2 17.4
CGS 7 8 760P
EGD 12 0 1 2 1
VFB 14 0 0
FFB 9 7 VFB 1
CGD 13 14 467P
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 9 8 DSUB
LS 8 3 7.5N
LD 1 9 4N
.MODEL DMOS PMOS (LEVEL=3 THETA=90M VMAX=183K ETA=6.5M VTO=-.2 KP=1.109)
.MODEL DCGD D (CJO=467P VJ=.6 M=.68)
.MODEL DSUB D (IS=29N N=1.5 RS=61.4M BV=160 CJO=900P VJ=.8 M=.42 TT=252N)
.MODEL DLIM D (IS=100U)
.ENDS